2191-11-29 05:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.9
F - [**2191-11-28**] 10:00 AM
   - The patient's lovenox was stopped due to risk of bleeding given her
   Hct drop and guiaiac positive stools.  Heme/onc agreed with holding
   lovenox.  Also recommended giving neupogen.
   - She was given 2 units of PRBC in the am for Hct of 22.2 which did not
   bump appropriately to 2 units yesterday.  She was also started on a
   PPI.  Hct in the evening was 31.0 (from 22.2).
   - She was bolused with 1 L of LR for tachycardia in the am and 500 cc
   NS with K in the evening for continued tachycardia in the 120's to
   130's.  She did not appear responsive to IVF and her UOP increased with
   fluids.  A TSH was added on and she was started on metoprolol 12.5 mg
   qid (as she had been on atenolol 50 mg daily as an outpatient).  Her HR
   came down to the 110's overnight with the metoprolol.
   - C.diff and stool cx sent, C.diff neg, stool cx pending.
   - No stools overnight
   Allergies:
   Iodine
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2191-11-28**] 08:01 PM
   Cefipime - [**2191-11-28**] 09:41 PM
   Ciprofloxacin - [**2191-11-28**] 10:00 PM
   Metronidazole - [**2191-11-29**] 12:41 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2191-11-28**] 08:00 AM
   Pantoprazole (Protonix) - [**2191-11-28**] 08:00 PM
   Omeprazole (Prilosec) - [**2191-11-28**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-11-29**] 05:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.2
C (98.9
   HR: 114 (112 - 144) bpm
   BP: 120/76(86) {93/56(68) - 144/103(114)} mmHg
   RR: 27 (13 - 34) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  5,493 mL
                                                                    554 mL
   PO:
                                                                    630 mL
             TF:
   IVF:
                                                                  4,163 mL
                                                                    554 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,925 mL
                                                                    760 mL
   Urine:
                                                                  1,925 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,568 mL
                                                                   -204 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress, Thin, Anxious
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal) no Murmurs,
   rubs, gallops
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : bases)
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   110 K/uL
   11.1 g/dL
   95 mg/dL
   0.5 mg/dL
   20 mEq/L
   3.5 mEq/L
   11 mg/dL
   109 mEq/L
   136 mEq/L
   29.6 %
   1.1 K/uL
        [image002.jpg]
                             [**2191-11-27**]  07:31 PM
                             [**2191-11-28**]  05:00 AM
                             [**2191-11-28**]  03:45 PM
                             [**2191-11-28**]  10:11 PM
                             [**2191-11-29**]  03:49 AM
   WBC
   0.3
   1.1
   Hct
   23
   22.2
   31.0
   29.6
   Plt
   83
   110
   Cr
   0.5
   0.5
   0.5
   Glucose
   109
   95
   Other labs: PT / PTT / INR:15.7/36.9/1.4, Differential-Neuts:53.0 %,
   Band:3.0 %, Lymph:13.0 %, Mono:16.0 %, Eos:4.0 %, Lactic Acid:0.9
   mmol/L, Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:1.0 mg/dL
   Assessment and Plan
   53 year old female with a history of stage IV breast cancer with 4 days
   of nausea, vomiting, diarrhea and neutropenic fever.
   # Neutropenic fever/sepsis: On admission, met SIRS criteria with
   tachycardia, fever, leukopenia and respiratory rate. Likely source is
   GI given loss of appetite, nausea, vomiting, diarrhea, and inability to
   tolerate PO. Patient was profoundly dehydrated with tachycardia,
   elevated lactate, all improved with aggressive hydration.  Blood
   cultures sent, UA negative/ucx pending.  CXR without evidence of
   infiltrate and CT abd/pelvis negative for infection.  C. Diff negative
   X 1.  Blood cx pending.  Fever to 100.4 this morning, cultures/
   - Follow blood culture/urine culture.
   - Neutropenic precautions, ANC 583 currently, goal >1000, on 7 day
   cours of neupogen
   - Discuss with primary oncologist in am (Dr. [**Last Name (STitle) 3782**]/covering fellow)
   - Continue to trend WBC, culture with spikes
   - F/U stool studies and C. Diff
   - Continue IVF given fever and dehydration, see below
   - Vanc/cefepime/flagyl for broad coverage including GI
   source/anaerobes, can narrow based on cultures and clinical source
   # Pancytopenia: neutropenic, anemic and thrombocytopenic.  Likely from
   chronic illness as well as recent chemotherapy (12 days prior to
   admission).  Received 2 units PRBCs with several liters IVF on
   admission, HCT did not respond but may be dilutional effect as well,
   received an additional 2 units yesterday with hct to 31 and now stable
   this morning
   - pm hct to monitor for stability
   - continue to monitor counts; neutropenic precautions until ANC >1000
   (583 now)
   - no active bleeding although is guaiac positive per ED report
   - continue Neupogen per heme/onc recs
   - heme/onc following, appreciate recs
   # Nausea/vomiting/diarrhea: Mostly resolved, no BM overnight. Likely
   gastroenteritis, though given neutropenia, more concerning for occult
   cause.
   - ADAT to clears
   - Vanc/cefepime/flagyl as above until no longer neutropenic
   - continue IVF
   - Zofran prn nausea
   - follow up stool cultures/c.diff
   # Metastatic Stage IV breast Ca: Now 13 days post cycle two of
   adriamycin/cytoxan.  Continuing to get XRT to back and leg, last [**10-18**].
   - Will touch base with Dr. [**Last Name (STitle) 3782**], primary onc today.  Per OMR, appears
   next XRT is due in [**Month (only) **].
   .
   # Anxiety: Patient is quite tearful and anxious at this time.  Notes
   that she uses ativan at home for this prn.
   - Continue ativan prn
   - SW consult placed
   .
   # Hx of DVT and recent portal vein thrombosis: On lovenox on outpatient
   but concerns with guaiac positive stool and thrombocytopenia, so
   lovenox held overnight.
   - will retart Lovenox as hct has been stable
   - f/u heme/onc recs
   .
   # FEN: ADAT to clears in am, replete lytes prn, IVF
   .
   # Access: PIV, patient refused CVL
   .
   # PPx: pneumoboots, IV Pantoprazole given GI bleed and thrombocytopenia
   (although indications are for <50 platelets)
   .
   # Code: FULL
   .
   # Dispo: ICU for now
   .
   # Comm: [**Name (NI) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-11-27**] 08:20 PM
   20 Gauge - [**2191-11-28**] 09:25 PM
   Prophylaxis:
   DVT:  lovenox 120mg qd (therapeutic dosing)
   Stress ulcer:  IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   # Sore Throat:  Patient reports sore throat for several days.  Was told
   in the ED that she did not have strep, though unclear if she was
   swabbed.  Nothing visualized on exam, no evidence of thrush.
   - send influenza DFA
   - cepacol lozenge for throat pain
   - nystain swith and swallow
   ------ Protected Section Addendum Entered By:[**Name (NI) 557**] [**Last Name (NamePattern1) 3747**], MD
   on:[**2191-11-29**] 14:33 ------

2191-11-29 10:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   tachycardic yest pm despite IVF. resumed on home BB. tearful this am
   and feeling overwhelmed. notes occ fevers and persistent sore throat.
   denies abd pain.
   History obtained from Patient
   Allergies:
   Iodine
   Hives;
   Last dose of Antibiotics:
   Cefipime - [**2191-11-28**] 09:41 PM
   Ciprofloxacin - [**2191-11-28**] 10:00 PM
   Metronidazole - [**2191-11-29**] 07:30 AM
   Vancomycin - [**2191-11-29**] 08:38 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-11-28**] 08:00 PM
   Omeprazole (Prilosec) - [**2191-11-28**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-11-29**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38
C (100.4
   HR: 109 (103 - 136) bpm
   BP: 106/57(68) {93/56(68) - 144/103(114)} mmHg
   RR: 22 (15 - 31) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  5,493 mL
                                                                    941 mL
   PO:
                                                                    630 mL
             TF:
   IVF:
                                                                  4,163 mL
                                                                    941 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,925 mL
                                                                  1,110 mL
   Urine:
                                                                  1,925 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,568 mL
                                                                   -169 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress, Anxious
   Head, Ears, Nose, Throat: o/p and post pharynx clear
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.1 g/dL
   110 K/uL
   95 mg/dL
   0.5 mg/dL
   20 mEq/L
   3.5 mEq/L
   11 mg/dL
   109 mEq/L
   136 mEq/L
   29.6 %
   1.1 K/uL
        [image002.jpg]
                             [**2191-11-27**]  07:31 PM
                             [**2191-11-28**]  05:00 AM
                             [**2191-11-28**]  03:45 PM
                             [**2191-11-28**]  10:11 PM
                             [**2191-11-29**]  03:49 AM
   WBC
   0.3
   1.1
   Hct
   23
   22.2
   31.0
   29.6
   Plt
   83
   110
   Cr
   0.5
   0.5
   0.5
   Glucose
   109
   95
   Other labs: PT / PTT / INR:15.7/36.9/1.4, Differential-Neuts:53.0 %,
   Band:3.0 %, Lymph:13.0 %, Mono:16.0 %, Eos:4.0 %, Lactic Acid:0.9
   mmol/L, Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:1.0 mg/dL
   Fluid analysis / Other labs: ANC- 583
   Microbiology: C. diff- negative
   Assessment and Plan
   NEUTROPENIC FEVER- given GI symptoms, DDx includes viral syndrome. C
   diff x1 negative
   -on broad ABX including vanco IV, cefepime IV, metronidazole IV
   -pan-cx pending, repeat C. diff pending
   SORE THROAT- would screen with swab for resp viral panel/ DFA
   NAUSEA/VOMITING/ DIARRHEA- supportive care, prn antiemetics
   -ok to trial clears today
   -will need to follow lytes and replete prn
   SEPSIS SYNDROME- related to #1 + probable hypovolemia and anemia, now
   resolving
   PANCYTOPENIA-related to recent chemotx. today not neutropenic any
   longer
   -GCSF as per Onc
   -PRBC transfusion to goal Hct >25
   GUAIAC POSITIVE STOOLS- given anemia and tachycardia will hold
   therapeutic anticoag as risk of catastrophic bleed currently outweighs
   clot risk
   PRIOR VTE, PORTAL V. CLOT- on enoxaparin previously. Given bleeding
   risk as stated above, will hold therapeutic anticoag for now.
   BRCA- touch base w/ Onc svce
   -s/p radiation tx, next dose due [**2191-12-25**]
   PSYCH- depression, anxiety
   -SW consult for pt's overwhlemed state today
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2191-11-27**] 08:20 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes

2191-11-30 06:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Neutropenic fever
   24 Hour Events:
   - patient had tachycardia to 160's and sbp's to 80's though asymptomaic
   - 12 lead showed Afib with RVR, no prior history
   - gave lopressor 5mg iv x2 with hr to 130's and increase in systolic
   pressure to 100's
   - increased metoprolol to 25mg tid from 12.5mg qid
   - bedside echo ordered but not done as too [**Last Name (LF) **], [**First Name3 (LF) 124**] do on Wednesday
   - gave nystatin for sore throat
   - episode of asymptomatic hypotension to SBP of 70's while sleeping
   after receiving po lopressor dose - SBP's increased to 90's when awake,
   gave 1L NS bolus with good effect.  Metoprolol as above
   History obtained from Patient
   Allergies:
   History obtained from PatientIodine
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2191-11-28**] 10:00 PM
   Vancomycin - [**2191-11-29**] 08:06 PM
   Cefipime - [**2191-11-29**] 10:06 PM
   Metronidazole - [**2191-11-30**] 12:14 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2191-11-29**] 02:20 PM
   Enoxaparin (Lovenox) - [**2191-11-29**] 11:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-11-30**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.1
C (98.7
   HR: 105 (93 - 153) bpm
   BP: 105/72(80) {62/38(43) - 130/87(104)} mmHg
   RR: 26 (17 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,502 mL
                                                                    847 mL
   PO:
             TF:
   IVF:
                                                                  4,502 mL
                                                                    847 mL
   Blood products:
   Total out:
                                                                  2,230 mL
                                                                    130 mL
   Urine:
                                                                  2,230 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,272 mL
                                                                    717 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), [**Year (4 digits) **] to 100's
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to):
   person, place, time and purpose, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   114 K/uL
   10.9 g/dL
   78 mg/dL
   0.4 mg/dL
   19 mEq/L
   3.0 mEq/L
   10 mg/dL
   109 mEq/L
   136 mEq/L
   30.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2191-11-27**]  07:31 PM
                             [**2191-11-28**]  05:00 AM
                             [**2191-11-28**]  03:45 PM
                             [**2191-11-28**]  10:11 PM
                             [**2191-11-29**]  03:49 AM
                             [**2191-11-29**]  02:44 PM
                             [**2191-11-29**]  11:12 PM
                             [**2191-11-30**]  04:56 AM
   WBC
   0.3
   1.1
   5.1
   Hct
   23
   22.2
   31.0
   29.6
   33.5
   30.0
   Plt
   83
   110
   114
   Cr
   0.5
   0.5
   0.5
   0.4
   TropT
   0.03
   0.02
   Glucose
   109
   95
   78
   Other labs: PT / PTT / INR:15.7/36.9/1.4, CK / CKMB /
   Troponin-T:45/3/0.02, Differential-Neuts:53.0 %, Band:3.0 %, Lymph:13.0
   %, Mono:16.0 %, Eos:4.0 %, Lactic Acid:0.9 mmol/L, Ca++:7.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.0 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 TACHYCARDIA, OTHER
 PANCYTOPENIA
 NEUTROPENIA
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 NAUSEA / VOMITING
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   53 year old female with a history of stage IV breast cancer with 4 days
   of nausea, vomiting, diarrhea and neutropenic fever.
   # Neutropenic fever/sepsis: On admission, met SIRS criteria with
   tachycardia, fever, leukopenia and respiratory rate. Likely source is
   GI given loss of appetite, nausea, vomiting, diarrhea, and inability to
   tolerate PO. Patient was profoundly dehydrated with tachycardia,
   elevated lactate, all improved with aggressive hydration.  Blood
   cultures sent, UA negative/ucx pending.  CXR without evidence of
   infiltrate and CT abd/pelvis negative for infection.  C. Diff negative
   X 1.  Blood cx pending.  Fever to 100.4 this morning, cultures/
   - Follow blood culture/urine culture.
   - Neutropenic precautions, ANC 583 currently, goal >1000, on 7 day
   cours of neupogen
   - Discuss with primary oncologist in am (Dr. [**Last Name (STitle) 3782**]/covering fellow)
   - Continue to trend WBC, culture with spikes
   - F/U stool studies and C. Diff
   - Continue IVF given fever and dehydration, see below
   - Vanc/cefepime/flagyl for broad coverage including GI
   source/anaerobes, can narrow based on cultures and clinical source
   # Pancytopenia: neutropenic, anemic and thrombocytopenic.  Likely from
   chronic illness as well as recent chemotherapy (12 days prior to
   admission).  Received 2 units PRBCs with several liters IVF on
   admission, HCT did not respond but may be dilutional effect as well,
   received an additional 2 units yesterday with hct to 31 and now stable
   this morning
   - pm hct to monitor for stability
   - continue to monitor counts; neutropenic precautions until ANC >1000
   (583 now)
   - no active bleeding although is guaiac positive per ED report
   - continue Neupogen per heme/onc recs
   - heme/onc following, appreciate recs
   # Nausea/vomiting/diarrhea: Mostly resolved, no BM overnight. Likely
   gastroenteritis, though given neutropenia, more concerning for occult
   cause.
   - ADAT to clears
   - Vanc/cefepime/flagyl as above until no longer neutropenic
   - continue IVF
   - Zofran prn nausea
   - follow up stool cultures/c.dif
   # Metastatic Stage IV breast Ca: Now 13 days post cycle two of
   adriamycin/cytoxan.  Continuing to get XRT to back and leg, last [**10-18**].
   - Will touch base with Dr. [**Last Name (STitle) 3782**], primary onc today.  Per OMR, appears
   next XRT is due in [**Month (only) **].
   # Anxiety: Patient is quite tearful and anxious at this time.  Notes
   that she uses ativan at home for this prn.
   - Continue ativan prn
   - SW consult placed
   # Hx of DVT and recent portal vein thrombosis: On lovenox on outpatient
   but concerns with guaiac positive stool and thrombocytopenia, so
   lovenox held overnight.
   - will retart Lovenox as hct has been stable
   - f/u heme/onc recs
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2191-11-27**] 08:20 PM
   20 Gauge - [**2191-11-29**] 08:16 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2191-11-30 09:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   tachycardia to 160s yest, ECG showed afib w/ rvr. received IV
   metoprolol and increased to tid metoprolol. Developed asymptomatic
   hypotension o/n, SBP to 90s. Responded to IVF bolus.
   Allergies:
   Iodine
   Hives;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2191-11-28**] 10:00 PM
   Vancomycin - [**2191-11-29**] 08:06 PM
   Cefipime - [**2191-11-29**] 10:06 PM
   Metronidazole - [**2191-11-30**] 08:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2191-11-29**] 02:20 PM
   Enoxaparin (Lovenox) - [**2191-11-29**] 11:07 PM
   Other medications:
   MVI, Tums, G-CSF, Lopressor 25 tid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-11-30**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.5
C (97.7
   HR: 100 (92 - 153) bpm
   BP: 122/76(89) {62/38(43) - 130/87(104)} mmHg
   RR: 15 (15 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,502 mL
                                                                  1,311 mL
   PO:
             TF:
   IVF:
                                                                  4,502 mL
                                                                  1,311 mL
   Blood products:
   Total out:
                                                                  2,230 mL
                                                                    340 mL
   Urine:
                                                                  2,230 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,272 mL
                                                                    971 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress, Anxious
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.9 g/dL
   114 K/uL
   69 mg/dL
   0.4 mg/dL
   17 mEq/L
   4.3 mEq/L
   10 mg/dL
   109 mEq/L
   137 mEq/L
   30.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2191-11-27**]  07:31 PM
                             [**2191-11-28**]  05:00 AM
                             [**2191-11-28**]  03:45 PM
                             [**2191-11-28**]  10:11 PM
                             [**2191-11-29**]  03:49 AM
                             [**2191-11-29**]  02:44 PM
                             [**2191-11-29**]  11:12 PM
                             [**2191-11-30**]  04:56 AM
   WBC
   0.3
   1.1
   5.1
   Hct
   23
   22.2
   31.0
   29.6
   33.5
   30.0
   Plt
   83
   110
   114
   Cr
   0.5
   0.5
   0.5
   0.4
   0.4
   TropT
   0.03
   0.02
   Glucose
   109
   95
   78
   69
   Other labs: PT / PTT / INR:16.3/49.8/1.5, CK / CKMB /
   Troponin-T:45/3/0.02, Differential-Neuts:65.0 %, Band:20.0 %, Lymph:4.0
   %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Ca++:6.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.1 mg/dL
   Imaging: Echo- pending
   Microbiology: C. diff- neg
   Influenza DFA- neg
   Blood cx- NGTD
   ECG: ECG ([**11-29**])- afib w/ RVR
   Assessment and Plan
   NEUTROPENIC FEVER- given GI symptoms, DDx includes viral syndrome. now
   resolving
   -on broad ABX including vanco IV, cefepime IV, metronidazole IV; could
   d/c as no clear source of infxn
   -pan-cx pending, repeat C. diff pending
   AFIB- rate controlled w/ metoprolol, resumed on therapeutic anticoag.
   -check echo given anthracycline chemotx
   -TSH nl, cardiac enzymes [**Doctor First Name 1247**]
   SORE THROAT- would screen with swab for resp viral panel/ DFA
   NAUSEA/VOMITING/ DIARRHEA- supportive care, prn antiemetics
   -ok to trial clears today
   -will need to follow lytes and replete prn
   SEPSIS SYNDROME- related to #1 + probable hypovolemia and anemia, now
   resolving
   PANCYTOPENIA-related to recent chemotx. today not neutropenic any
   longer
   -GCSF as per Onc; can d/c after tomorrow's dose
   -PRBC transfusion to goal Hct >25
   PRIOR VTE, PORTAL V. CLOT- resumed on anticoag. as above
    BRCA- touch base w/ Onc svce
   -s/p radiation tx, next dose due [**2191-12-25**]
    PSYCH- depression, anxiety
   -SW consult for pt's overwhlemed state today
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2191-11-27**] 08:20 PM
   20 Gauge - [**2191-11-29**] 08:16 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes